US08455521B2
To a solution of (2R)-2-(t-butoxycarbonylamino)-3-(N-methyl-N-(2-(trimethylsilyl)-ethoxycarbonyl)amino)propan-1-ol (0.55 g, 1.58 mmol) in ether (5 mL) was added a solution of p-toluenesulfonic acid (0.31 g, 1.60 mmol) in ethanol (2 mL). Transfer of the p-toluenesulfonic acid was completed with the aid of ether (1 mL). The solution was placed on a rotary evaporator and the ether removed under vacuum at rt. Then, with continuing evacuation, the bath temperature was raised to 60-65° C. for 30 min, during which gas evolution was evident. The solid residue was dissolved in 1 N aq NaOH solution (5 mL) and extracted with CH2Cl2 (4×5 mL). The combined organic layers were washed with brine and dried over Na2SO4. Solvent was removed in vacuo to give (2-(trimethylsilyl)ethyl) (R)-2-amino-3-hydroxypropyl-methylcarbamate (0.35 g, 90%) as a free amine, which was without purification. MS m/z 249 (M+H+).

reactant | (2R)-2-(t-butoxycarbonylamino)-3-(N-methyl-N-(2-(trimethylsilyl)-ethoxycarbonyl)amino)propan-1-ol | 1.58 mmol, 0.55 g | C(C)(C)(C)OC(=O)N[C@@H](CO)CN(C(=O)OCC[Si](C)(C)C)C | C15H32N2O5Si
reactant | p-toluenesulfonic acid | 1.60 mmol, 0.31 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ether | 1 mL | CCOCC | C4H10O
product | (2-(trimethylsilyl)ethyl) (R)-2-amino-3-hydroxypropyl-methylcarbamate | 0.35 g, 90% | N[C@H](CN(C(OCC[Si](C)(C)C)=O)C)CO | C10H24N2O3Si
